US06726911B1
To cleave off the tert.-butyidimethylsilyl groups, 0,10 g of [2′-(2,5-bis[(tert.-butyldimethylsilyl)oxy]phenyl)ethylidene]-6,10-dimethyl-5,9-undecadienic acid is dissolved in 10 ml of DMF together with 2 equivalents of anhydrous potassium fluoride and 0.2 equivalents of 48% aqueous HBr, followed by stirring at room temperature for 24 hours under an argon atmosphere. Then, 10 ml of 2.0 M aqueous HCl solution is added, and the reaction mixture is extracted three times with 15 ml each of ether. The combined organic phases are washed with 10 ml of saturated aqueous NaCl solution, dried over MgSO4 and concentrated under reduced pressure. Purification of the raw product is effected by column chromatography (mobile system heptane:ethyl acetate=1:1). The yield was 87% of ganomycin B.

reactant | [2′-(2,5-bis[(tert.-butyldimethylsilyl)oxy]phenyl)ethylidene]-6,10-dimethyl-5,9-undecadienic acid | 0,10 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)CC=C(C(=O)O)CCC=C(CCC=C(C)C)C)(C)C | C33H56O4Si2
reactant | potassium fluoride | 2 equivalents | [F-].[K+]
reactant | HBr | 0.2 equivalents | Br | BrH
reactant | HCl | 2.0 M, 10 ml | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ganomycin B | yield was 87% | CC(=CCC/C(=C/CC/C(=C/CC=1C=C(C=CC1O)O)/C(=O)O)/C)C | C21H28O4
